US06852865B2
Synthesis of 2-Methyl-1-Tosyl-Aziridine
2-Methylaziridine (3.6 ml, 51 mmol) was added to a 10% aqueous KOH solution (30 ml) and cooled in an ice bath for 30 min. To this solution p-toluenesulfonyl chloride (9.9 g, 52 mmol) was added rapidly while maintaining the temperature below 4° C. The resulting mixture was stirred for 30 min at 0° C., then stirred at room temperature overnight. The white precipitate was washed multiple times with cold water and dried under vacuum. The washed product was dissolved in hot petroleum ether and allowed to crystallize at 0° C., yielding colorless crystals (6.3 g, 57% yield).

reactant | 2-Methylaziridine | 51 mmol, 3.6 ml | CC1NC1 | C3H7N
reactant | p-toluenesulfonyl chloride | 52 mmol, 9.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | KOH | 30 ml | [OH-].[K+]
product | 2-Methyl-1-Tosyl-Aziridine | 6.3 g, 57% yield | CC1N(C1)S(=O)(=O)C1=CC=C(C)C=C1 | C10H13NO2S
